US05817766
A mixture of 2.2 g (3.97 mmol) of 5-[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-3,4-dihydro-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanol and 7.47 g (19.86 mmol) of pyridinium dichromate (Aldrich) in anhy. DMF (Aldrich) was stirred at RT under argon for 20 hr. The reaction was diluted with water and extracted with EtOAc. The organic phase was dried and solvent removed under reduced pressure. The residue was then purified by repeated chromatography on silica gel to give 1.1 g (48%) of 5-[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-3,4-dihydro-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanoic acid as a pale yellow foam. HR EI MS: Calc M+, 572.3322; Observed, 572.3315. Ratio of 8:1 diastereoisomers as shown by 1H-NMR.

reactant | 5-[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-3,4-dihydro-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanol | 3.97 mmol, 2.2 g | CC(C)(C)[Si](OC1=CC(=CC2=C1C(C(C(O2)(C)C)CCCO)C)CCCCC)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H50O3Si
reactant | pyridinium dichromate | 19.86 mmol, 7.47 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-[[(1,1-Dimethylethyl)diphenylsilyl]oxy]-3,4-dihydro-2,2,4-trimethyl-7-pentyl-2H-1-benzopyran-3-propanoic acid | 1.1 g, 48% | CC(C)(C)[Si](OC1=CC(=CC2=C1C(C(C(O2)(C)C)CCC(=O)O)C)CCCCC)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H48O4Si
